US07745484B2
Step 1: (S)—N-((2S,3S)-1-(3-Bromo-4-fluorophenyl)-3,4-bis(tert-butyldimethylsilyloxy)butan-2-yl)-2-methylpropane-2-sulfinamide
The title compound was prepared from (S,E)-N-((S)-2,3-bis(tert-butyldimethylsilyloxy)propylidene)-2-methylpropane-2-sulfinamide and 2-bromo-4-(bromomethyl)-1-fluorobenzene using a method analogous to that described in Examples 509 and 510.

reactant | (S,E)-N-((S)-2,3-bis(tert-butyldimethylsilyloxy)propylidene)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)O[C@@H](\C=N\[S@@](=O)C(C)(C)C)CO[Si](C)(C)C(C)(C)C | C19H43NO3SSi2
reactant | 2-bromo-4-(bromomethyl)-1-fluorobenzene | BrC1=C(C=CC(=C1)CBr)F | C7H5Br2F
product | (S)—N-((2S,3S)-1-(3-Bromo-4-fluorophenyl)-3,4-bis(tert-butyldimethylsilyloxy)butan-2-yl)-2-methylpropane-2-sulfinamide | BrC=1C=C(C=CC1F)C[C@@H]([C@@H](CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)N[S@@](=O)C(C)(C)C | C26H49BrFNO3SSi2
